US06727256B1
4-(4-(4-Phenoxyphenylamino)-quinolin-7-yl) thiazole-2-carbaldehyde
Prepared according to Procedure B from (4-phenoxyphenyl)-(7-iodoquinolin-4-yl)amine (2 g, 4.56 mmol), 4-(tributylstannyl)thiazole-2-carbaldehyde (1.84 g,4.56 mmol) and dichlorobis(triphenylphosphine)palladium (II) (0.74 g, 20 mol%) heated at reflux overnight (18 hrs) in dioxane (50 ml). The cooled solution was filtered through a plug of Celite®, concentrated and triturated with iso-hexane (3×20 ml). The resultant solid was purified via flash column chromatography on silica gel, eluting with 5% methanol in chloroform. The purified product was isolated as a yellow solid (0.85 g, 44%). δH [2H6] DMSO 10.10(1H,s), 9.30(1,bs), 8.90(1Hs), 8.50(2H,s&d), 8.45(1H,d), 8.20(1H,d), 7.40(5H,bm), 7.10(4H,2d), 6.80(1H,d).

reactant | (4-phenoxyphenyl)-(7-iodoquinolin-4-yl)amine | 4.56 mmol, 2 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)I | C21H15IN2O
reactant | 4-(tributylstannyl)thiazole-2-carbaldehyde | 4.56 mmol, 1.84 g | C(CCC)[Sn](C=1N=C(SC1)C=O)(CCCC)CCCC
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.74 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-(4-Phenoxyphenylamino)-quinolin-7-yl) thiazole-2-carbaldehyde | 0.85 g, 44% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C=1N=C(SC1)C=O | C25H17N3O2S
